Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
R hip pain
 
Major Surgical or Invasive Procedure:
R hip hemiarthroplasty

 
History of Present Illness:
___ s/p fall w/ R femoral neck fracture and acute on chronic 
SDH. Patient had recent admission after fall on ___ for ___/IPH 
that was being treated conservatively with close neurosurgical 
followup. Patient lives in a ___ facility and tonight fell to 
the ground, unwitnessed, with complaint of right hip pain 
afterward. He is a poor historian d/t baseline mental status but 
denies any other complaints. OSH evaluation revealed R femoral 
neck fracture and CT head that showed possibe acute on chronic 
SDH. Patient was transferred to ___ for neurosurgical and 
orthopedic evaluation. On evaluation he is sleeping comfortably 
and denies any pain. 

Of note the patient received R femoral nerve block at OSH w/ 
40cc of lidocaine/marcaine solution instilled under US guidance. 


 
Past Medical History:
HTN, HL
 
Social History:
___
Family History:
Family Hx: NC

 
Physical Exam:
VS 97.4 76 ___ 97%RA
Gen: sleeping, easily arousable, confused at baseline
ENT: EOMI, PERRL, OP clear
Pulm: No resp distress
___: Regular rate
Abd: Soft, NT, ND
Ext: RLE is shortnened and ext rotated, nontender over midline 
c/t/l spine, chest wall nontender, pelvis stable, b/l UE and LLE 
atraumatic, RLE TTP R hip, nontender R knee, ankle, well 
perfused RLE w/ 2+ DP pulse
Neuro: ___ strength throughout except at R hip and knee which 
were not tested d/t injury, sensation intact throughout
Skin: warm and dry

 
Pertinent Results:
___ 06:30AM   ___ PTT-26.8 ___
___ 06:30AM   PLT COUNT-207
___ 06:30AM   NEUTS-74.2* LYMPHS-12.3* MONOS-7.0 EOS-6.3* 
BASOS-0.3
___ 06:30AM   estGFR-Using this
___ 06:30AM   estGFR-Using this
___ 06:30AM   GLUCOSE-109* UREA N-39* CREAT-1.4* SODIUM-141 
POTASSIUM-4.3 CHLORIDE-106 TOTAL CO2-24 ANION GAP-15
 
Brief Hospital Course:
The patient presented to the emergency department and was 
evaluated by the orthopedic surgery team. The patient was found 
to have R femoral neck fracture and was admitted to the 
orthopedic surgery service.  The patient was taken to the 
operating room on ___ for R hip hemiarthroplasty which 
the patient tolerated well (for full details please see the 
separately dictated operative report). The patient was taken 
from the OR to the PACU in stable condition and after recovery 
from anesthesia was transferred to the floor.  The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given perioperative antibiotics and anticoagulation 
per routine.  The patients home medications were continued 
throughout this hospitalization.  The patient worked with ___ who 
determined that discharge to rehab was appropriate. The 
___ hospital course was otherwise unremarkable. At the 
time of discharge the patient was afebrile with stable vital 
signs that were within normal limits, pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient is 
WABT in the RLE extremity, and will be discharged on Heparin for 
DVT prophylaxis.  The patient will follow up in two weeks per 
routine. A thorough discussion was had with the patient 
regarding the diagnosis and expected post-discharge course, and 
all questions were answered prior to discharge

 
Medications on Admission:
multivits
meclizine
pheytoin infatabs
simvasstin
valsartan
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. Albuterol 0.083% Neb Soln 1 NEB IH Q4H:PRN sob 
3. Amlodipine 10 mg PO DAILY 
4. Atenolol 25 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Heparin 5000 UNIT SC TID DVT PPX 
RX *heparin, porcine (PF) 5,000 unit/0.5 mL 5000 units sc three 
times a day Disp #*14 Syringe Refills:*0
7. Meclizine 25 mg PO TID 
8. Multivitamins 1 CAP PO DAILY 
9. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone [Oxecta] 5 mg 0.5 (One half) tablet(s) by mouth 
q4-6 Disp #*60 Tablet Refills:*0
10. Phenytoin Infatab 100 mg PO TID 
11. Simvastatin 20 mg PO DAILY 
12. Valsartan 160 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Femoral neck fracture

 
Discharge Condition:
stable

 
Discharge Instructions:
MEDICATIONS:
- Please take all medications as prescribed by your physicians 
at discharge.
- Continue all home medications unless specifically instructed 
to stop by your surgeon.
- Do not drink alcohol, drive a motor vehicle, or operate 
machinery while taking narcotic pain relievers.
- Narcotic pain relievers can cause constipation, so you should 
drink eight 8oz glasses of water daily and take a stool softener 
(colace) to prevent this side effect.

ANTICOAGULATION:
- Please take 5000 Heparin TID for 2 weeks

WOUND CARE:
- You can get the wound wet/take a shower starting 3 days after 
your surgery.  You may wash gently with soap and water, and pat 
the incision dry after showering.  
- No baths or swimming for at least 4 weeks.
- Any stitches or staples that need to be removed will be taken 
out at your 2-week follow up appointment.
- No dressing is needed if wound continues to be non-draining.

ACTIVITY AND WEIGHT BEARING:
- WBAT

Physical Therapy:
WBAT
Treatments Frequency:
change dressing regularly
 
Followup Instructions:
___